US07935725B2
(S,S)-1-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-2-hydroxy-ethanone
A mixture of 4-(benzothiazol-2-yloxy)-benzaldehyde (67 g, 0.26 mol), 1-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-2-hydroxy-ethanone hydrochloride (40.61 g, 0.26 mol), Et3N (183 mL, 1.31 mol), and N-methylpyrrolidinone (150 mL) in dichloroethane (750 mL) was stirred at rt for 1 h. Sodium triacetoxyborohydride (66.63 g, 0.314 mol) was then added in four equal portions over a 4 h period. After stirring overnight, the mixture was quenched with 3 N HCl(aq) (250 mL) and then 6 N HCl(aq) (3×50 mL) to a final pH of 0.54. The layers were separated and the organic was extracted again with 3 N HCl(aq) (250 mL). The combined aqueous layers were basified with Na2CO3 (50 g) and then 50% NaOH(aq) (130 mL) to a final pH of 13.2. After stirring for 1 h, isopropyl acetate (200 mL) was added and the mixture was stirred for 20 min. After separation of layers, the aqueous was extracted with additional isopropyl acetate (2×200 mL) and the organic layers were combined with an interstitial oil and concentrated. The resulting brown oil was purified by flash chromatography (0-5% MeOH in CH2Cl2) to provide the product as a clear oil (93.84 g, 91%).

reactant | 4-(benzothiazol-2-yloxy)-benzaldehyde | 0.26 mol, 67 g | S1C(=NC2=C1C=CC=C2)OC2=CC=C(C=O)C=C2 | C14H9NO2S
reactant | 1-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-2-hydroxy-ethanone hydrochloride | 0.26 mol, 40.61 g | Cl.C12N(CC(NC1)C2)C(CO)=O
reactant | Et3N | 1.31 mol, 183 mL | CCN(CC)CC | C6H15N
reactant | Sodium triacetoxyborohydride | 0.314 mol, 66.63 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 750 mL | ClC(C)Cl | C2H4Cl2
solvent | N-methylpyrrolidinone | 150 mL | CN1C(CCC1)=O | C5H9NO
product | (S,S)-1-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-2-hydroxy-ethanone | 93.84 g, 91% | S1C(=NC2=C1C=CC=C2)OC2=CC=C(CN1[C@@H]3CN([C@H](C1)C3)C(CO)=O)C=C2 | C21H21N3O3S
